US08039463B2
LiOH.H2O (21 mg, 0.5 mmol) was added to a solution of 1-(biphenyl-4-ylcarbamoyl)-cyclopropanecarboxylic acid methyl ester (100 mg, 0.33 mmol) in methanol (0.5 mL), THF (1 mL) and H2O (0.3 mL) and the resulting mixture was stirred for 2 hours at ambient temperature. The reaction mixture was then concentrated and the residue was diluted with water, acidified with conc. HCl. The resulting precipitate was isolated by filtration and dried to afford 55 mg (58%) of 1-(biphenyl-4-ylcarbamoyl)-cyclopropanecarboxylic acid

reactant | LiOH.H2O | 0.5 mmol, 21 mg | O[Li].O
reactant | 1-(biphenyl-4-ylcarbamoyl)-cyclopropanecarboxylic acid methyl ester | 0.33 mmol, 100 mg | COC(=O)C1(CC1)C(NC1=CC=C(C=C1)C1=CC=CC=C1)=O | C18H17NO3
solvent | methanol | 0.5 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.3 mL | O | H2O
product | 1-(biphenyl-4-ylcarbamoyl)-cyclopropanecarboxylic acid | 55 mg, 58% | C1(=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O)C1=CC=CC=C1 | C17H15NO3
